US07795267B2
Hexahydro-1,1-diphenyl-7-(quinolin-6-ylcarbonyl)-3H-oxazolo[3,4-a]pyrazin-3-one
Hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one (0.15 g, 0.51 mmol), quinoline-6-carboxylic acid (0.11 g, 0.63 mmol), 1-hydroxybenzotriazole (0.10 g, 0.74 mmol) were dissolved in N,N-dimethylformamide (5 mL). 1-Ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.15 g, 0.78 mmol) was added thereto, and the mixture was stirred at room temperature for 2 hours and 30 minutes. The reaction solution was diluted with water, and the mixture was extracted with ethyl acetate. The organic layer was washed with a 1 N aqueous sodium hydroxide solution, water and saturated brine, and dried over magnesium sulfate. The solid was filtered off, and the filtrate was concentrated. The residue was purified with amino silica gel column chromatography (hexane:ethyl acetate=1:1 to ethyl acetate) and concentrated. The residue was recrystallized from ethyl acetate-hexane to obtain the title compound (0.13 g, yield 57%).

reactant | Hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one | 0.51 mmol, 0.15 g | C1(=CC=CC=C1)C1(OC(N2C1CNCC2)=O)C2=CC=CC=C2 | C18H18N2O2
reactant | quinoline-6-carboxylic acid | 0.63 mmol, 0.11 g | N1=CC=CC2=CC(=CC=C12)C(=O)O | C10H7NO2
reactant | 1-hydroxybenzotriazole | 0.74 mmol, 0.10 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-Ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.78 mmol, 0.15 g | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | Hexahydro-1,1-diphenyl-7-(quinolin-6-ylcarbonyl)-3H-oxazolo[3,4-a]pyrazin-3-one | 0.13 g, yield 57% | C1(=CC=CC=C1)C1(OC(N2C1CN(CC2)C(=O)C=2C=C1C=CC=NC1=CC2)=O)C2=CC=CC=C2 | C28H23N3O3
